US08097759B2
5-Bromo-N-(4-phenylthiazol-2-yl)-2-hydroxybenzamide (Compound No. 202)
Using 5-bromosalicylic acid and 2-amino-4-phenylthiazole as the raw materials, the same operation as the example 195(3) gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-4-phenylthiazole | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
product | 5-Bromo-N-(4-phenylthiazol-2-yl)-2-hydroxybenzamide | Yield: 16.0% | BrC=1C=CC(=C(C(=O)NC=2SC=C(N2)C2=CC=CC=C2)C1)O | C16H11BrN2O2S
